US08022076B2
In a 10 ml glass tube were placed 2-[{5-bromo-6-methyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}-(2-hydroxyethyl)amino]ethanol (32 mg, 0.073 mmol), phenylboronic acid (20 mg, 0.166 mmol), sodium carbonate (26 mg, 0.249 mmol), triphenylphosphine (7 mg, 0.025 mmol), palladium(II)acetate (2 mg, 0.008 mmol), dimethoxyethane (0.75 ml) and water (0.25 ml). The tube was sealed with a septum and placed in the microwave cavity. Microwave irradiation of 200 W was used, the temperature being ramped from room temperature to 150° C. Once 150° C. was reached, the reaction mixture was held at this temperature for 1 hour. The resultant mixture was diluted with water (50 ml), extracted into dichloromethane (3×50 ml) and the combined organic extracts were dried (MgSO4). The solvent was removed in vacuo to give the crude product which was purified by flash chromatography (silica) eluting with ethyl acetate followed by 5% methanol in ethyl acetate to give 2-((2-hydroxyethyl)-{6-methyl-5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}amino)ethanol as a brown gum (7 mg).

reactant | 2-[{5-bromo-6-methyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}-(2-hydroxyethyl)amino]ethanol | 0.073 mmol, 32 mg | BrC1=C(SC=2N=C(N=C(C21)NCC2=NC=CC=C2)N(CCO)CCO)C | C17H20BrN5O2S
reactant | phenylboronic acid | 0.166 mmol, 20 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.249 mmol, 26 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 0.025 mmol, 7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 50 ml | O | H2O
catalyst | palladium(II)acetate | 0.008 mmol, 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.25 ml | O | H2O
solvent | dimethoxyethane | 0.75 ml | C(OC)COC | C4H10O2
product | 2-((2-hydroxyethyl)-{6-methyl-5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}amino)ethanol | 7 mg | OCCN(CCO)C=1N=C(C2=C(N1)SC(=C2C2=CC=CC=C2)C)NCC2=NC=CC=C2 | C23H25N5O2S
